US04358593
6-hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene
A 4 g. portion of 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride, was combined with 100 ml. of denatured alcohol and 10 ml. of 5 N sodium hydroxide, and stirred under reflux for 1.5 hours under a nitrogen atmosphere. The reaction mixture was then evaporated to dryness under vacuum, and the residue was dissolved in 200 ml. of water and washed with 300 ml. of diethyl ether. The water layer was degassed under vacuum, and then nitrogen was bubbled through it to remove all traces of ether. The mixture was then acidified with 1 N hydrochloric acid, and then made basic with excess sodium bicarbonate. The precipitate was collected by filtration and washed with cold water to obtain 2.4 g. of crude product. It was purified on a 2×30 cm. column of silica gel, eluting first with 700 ml. of 5% methanol in chloroform, followed by 1 liter of 10% methanol in chloroform. The impurities came off first, and the product-containing fractions were combined and evaporated under vacuum to obtain 1.78 g. of yellow oil. The oil was dissolved in 6 ml. of acetone, seeded and chilled in a freezer to obtain 1.2 g. of purified product, m.p. 143°-147°. The identity of the product was confirmed as follows: nmr spectrum (100 mHz in dmso-d6) δ1.20-1.65 (6H, m, N(CH2CH2)2CH2); 2.30-2.45 (4H, m, N(CH2CH2)2CH2); 2.60 (2H, t, J=6 Hz, OCH2CH2N): 4.06 (2H, t, J=6 Hz, OCH2CH2N); 6.68 (2H, d, J=9 Hz, aromatic o to OH); 6.85 (1H, q, JH4-H5 =9 Hz, JH5-H7 =2 Hz, H5 of benzothiophene ring); 6.90 (2H, d, J=9 Hz, aromatic o to OCH2CH2N); 7.18 (2H, d, J=9 Hz, aromatic m to OH); 7.25 (1H, d, J=9 Hz, H4 of benzothiophene ring); 7.66 (2H, d, J=9 Hz, aromatic o to CO); 9.72 (2H, broad s, OH). Ultraviolet spectrum in ethanol: λmax (ε): 290 nm. (34,000). Electron impact mass spectrum M+ at m/e 473.

reactant | 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride | Cl.CS(=O)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OS(=O)(=O)C)C1
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
product | 6-hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)O)C1 | C28H27NO4S
